US07488740B2
9. 2-Methoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-[1,8]napthyridin-4-ol
4-Hydroxy-2-methoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-[1,8]napthyridine-3-carboxylic acid methyl ester (200 mg, 0.508 mmol) is dissolved in 12 M HCl (20 mL) and heated at 110° C. for 6 hours. The reaction mixture is poured onto ice (100 g) and extracted with CH2Cl2 (4×150 mL). The combined organic extracts are dried over Na2SO4 and the solvent removed under reduced pressure. The crude product is purified by silica gel preparatory TLC eluting with hexanes/acetone (3:1) yielding the title compound as a white solid.

reactant | 4-Hydroxy-2-methoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-[1,8]napthyridine-3-carboxylic acid methyl ester | 0.508 mmol, 200 mg | COC(=O)C=1C(=NC2=NC(=CC=C2C1O)C1=NC=CC=C1C(F)(F)F)COC | C18H14F3N3O4
solvent | HCl | 12 M, 20 mL | Cl | ClH
product | 2-Methoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-[1,8]napthyridin-4-ol | COCC1=NC2=NC(=CC=C2C(=C1)O)C1=NC=CC=C1C(F)(F)F | C16H12F3N3O2
